US06329405B1
(105a) N-[(4-Chlorophenyl)-(3-nitrophenyl)methyl]-N-[(R)-1-(3,4-difluorophenyl)ethyl]amine
Following a similar procedure to that described in Example (1a), 1.0 g of 4-chlorophenyl 3-nitrophenyl ketone, 1.11 g of (R)-1-(3,4-difluorophenyl)ethylamine hydrochloride, 2.93 ml of trietlaylamine, 0.50 ml of titanium tetrachloride, 1.01 g of sodium cyanoborohydride and 0.33 ml of acetic acid were reacted, to obtain 1.42 g of the title compound as a yellow oil.

reactant | 4-chlorophenyl 3-nitrophenyl ketone | 1.0 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)C1=CC=C(C=C1)Cl | C13H8ClNO3
reactant | (R)-1-(3,4-difluorophenyl)ethylamine hydrochloride | 1.11 g | Cl.FC=1C=C(C=CC1F)[C@@H](C)N
reactant | sodium cyanoborohydride | 1.01 g | C(#N)[BH3-].[Na+]
catalyst | titanium tetrachloride | 0.50 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | acetic acid | 0.33 ml | C(C)(=O)O | C2H4O2
product | N-[(4-Chlorophenyl)-(3-nitrophenyl)methyl]-N-[(R)-1-(3,4-difluorophenyl)ethyl]amine | 1.42 g | ClC1=CC=C(C=C1)C(N[C@H](C)C1=CC(=C(C=C1)F)F)C1=CC(=CC=C1)[N+](=O)[O-] | C21H17ClF2N2O2
